US07968585B2
2-Aza-spiro[4.5]decan-1-one
A 0° C. mixture of 1-cyanomethyl-cyclohexanecarboxylic acid methyl ester (4.28 g, 23.6 mmol) and cobalt (II) chloride hexahydrate (2.81 g, 11.8 mmol) in THF (80 mL) and water (40 mL) is treated portion-wise with sodium borohydride (4.47 g, 0.118 mol) and is warmed to room temperature and stirred for 48 hours under N2. The reaction is treated with 28% ammonium hydroxide (3.1 mL) and filtered through hyflo. The solvent is removed from the filtrate in vacuo and the residue is diluted with minimal water and brine and is extracted three times with 3:1 chloroform:isopropanol. The organic layer is dried (Na2SO4) and the solvent is removed in vacuo to afford crude product that is purified with a 0 to 10% methanol in CH2Cl2 gradient on silica gel to afford 1.95 g (54%) of the titled product. Rf=0.46 (9/1 CH2Cl2/methanol). MS (m/z): 154 (M+).

reactant | 1-cyanomethyl-cyclohexanecarboxylic acid methyl ester | 23.6 mmol, 4.28 g | COC(=O)C1(CCCCC1)CC#N | C10H15NO2
reactant | sodium borohydride | 0.118 mol, 4.47 g | [BH4-].[Na+]
reactant | ammonium hydroxide | 3.1 mL | [OH-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
catalyst | cobalt (II) chloride hexahydrate | 11.8 mmol, 2.81 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 2-Aza-spiro[4.5]decan-1-one | 1.95 g, 54% | C1(NCCC12CCCCC2)=O | C9H15NO
